data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_668705_1,[C:1]([C:3]1([O:7][H:10])[C:4](=[C:2]([H:18])[H:19])[C:5]([H:12])=[N:8][C:6]1([N:9]([H:11])[H:17])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[C:4]([C:2]([H:17])([H:18])[H:19])\[C:5](=[N:8]/[C:6](=[N:9]\[H:11])[H:13])[H:12])[O:7][H:10])([H:14])([H:15])[H:16],61.93487749996777
MR_332206_0,[C:1]([O:3][O:2][O:4][H:7])([O:5][H:8])=[O:6]>>[C:1]([O:2][O:4][H:7])([O:3][O:5][H:8])=[O:6],68.52237250002915
MR_140036_0,[C:1](/[C:4](=[C:3](/[C:2]([O:6][H:9])=[O:8])[O:7][H:10])[N:5]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([N:5]([H:11])[H:12])[C:3]([O:7][H:10])=[C:2]([O:6][H:9])[O:8]1)([H:13])([H:14])[H:15],53.16117250000431
MR_49121_0,[C:1]([C:3]([N:4]([H:9])[H:10])(/[C:5](=[N:2]\[H:8])[H:11])[C:6](=[C:7]([H:16])[H:17])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3]([N:4]([H:9])[H:10])=[C:5](/[N:2]([C:6](=[C:7]([H:16])[H:17])[H:12])[H:8])[H:11])([H:13])([H:14])[H:15],69.28478499999471
MR_68408_0,[C:1](/[C:3](=[C:2](\[N:4]([H:9])[H:10])[O:6][H:8])[C:5](=[O:7])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:11])[O:7][C@:2]1([N:4]([H:9])[H:10])[O:6][H:8])([H:12])([H:13])[H:14],37.86272249999939
MR_223576_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:4]([H:8])[H:9])/[C:6](=[N:7]/[N:5]([H:10])[H:11])[H:12])([H:13])[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:7]([N:5]([H:10])[H:11])/[C:6](=[N:3]\[N:4]([H:8])[H:9])[H:12])([H:13])[H:14],65.31396499999701
MR_14570_0,[C:1]1([C:2]([C:5]([O:7][H:9])=[O:8])([H:12])[H:13])([N:6]([H:10])[H:11])[C:3]([H:15])([H:16])[C:4]1([H:14])[H:17]>>[C:1](=[C:2]([H:12])[H:13])([C:4]([C:3]([C:5]([O:7][H:9])=[O:8])([H:15])[H:16])([H:14])[H:17])[N:6]([H:10])[H:11],52.93276250001029
MR_512869_2,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:9])([O:6][H:8])([H:10])[H:11]>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[O:6][H:8])(/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:9])([H:10])[H:11],61.05261249998378
MR_693752_0,[C:1]1(/[C:5](=[C:6](\[C:4]([H:19])([H:20])[H:21])[N:8]([H:13])[H:14])[O:9][H:10])([N:7]([H:11])[H:12])[C:2]([H:15])([H:16])[C:3]1([H:17])[H:18]>>[C:1](\[C:2]([C:3]([H:17])([H:18])[H:21])([H:15])[H:16])(=[C:5](\[C:6](=[C:4]([H:19])[H:20])[N:8]([H:13])[H:14])[O:9][H:10])[N:7]([H:11])[H:12],37.3130325000318
MR_637488_1,[C:1](/[C:3]([C:2]([H:10])([H:11])[H:12])=[N:5]\[H:7])([N:4]=[O:6])([H:8])[H:9]>>[C:1]([N:4][O:6][C:3]([C:2]([H:10])([H:11])[H:12])[N:5][H:7])([H:8])[H:9],51.26110250002185
MR_556781_0,[C:1](/[C:4](=[C:3](\[C:2]([H:16])([H:17])[H:18])[O:8][H:9])[N:6]([H:12])[H:13])([O:7][N:5]([H:10])[H:11])([H:14])[H:15]>>[C:1](=[C:4]([C:3]([C:2]([H:16])([H:17])[H:18])([O:7][N:5]([H:10])[H:11])[O:8][H:9])[N:6]([H:12])[H:13])([H:14])[H:15],37.693924999997535
MR_623582_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])([O:6][C:2]([H:11])([H:12])[H:13])/[N:8]=[C:5](/[O:7][H:9])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:14])([H:18])[H:19])=[N:8][C:5]([O:6][C:2]([H:11])([H:12])[H:13])([O:7][H:9])[H:10],46.1626649999819
MR_31908_1,[C:1]([C:5](=[C:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])[H:11])([O:6][H:9])([O:7][H:8])[H:10]>>[C:1](=[C:5](\[C:4]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[O:6][H:9])[H:11])(\[O:7][H:8])[H:10],63.68246499997852
MR_699831_1,[C:1]([C:2]1([H:10])[C:3]([H:13])([H:14])[O:5]1)([N:4]([H:11])[H:12])([O:6][H:8])[O:7][H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:13])([H:14])[O:5]1)([N:4]([H:11])[H:12])([O:6][H:8])[O:7][H:9],67.42801249997427
MR_206537_0,[C:1]([N:2]([H:7])[H:8])(=[O:5])[N:6]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9]>>[C:1](\[N:2]([H:7])[H:8])([O:5][C:3](=[C:4]([H:11])[H:12])[H:10])=[N:6]\[H:9],69.64622500000957
MR_524271_1,[C:1]([N:3]([C:2]([H:16])([H:20])[H:21])/[C:4](=[C:5]([N:7]([H:12])[H:13])/[C:8](=[N:9]/[H:14])[H:15])[N:6]([H:10])[H:11])([H:17])([H:18])[H:19]>>[C:1]([N:3]([C:2]([H:16])([H:20])[H:21])/[C:5](=[C:4]([N:6]([H:10])[H:11])/[C:8](=[N:9]/[H:14])[H:15])[N:7]([H:12])[H:13])([H:17])([H:18])[H:19],62.317652500000094
MR_82484_0,[C:1]1([N:4]([H:8])[H:10])([H:6])[C:2]([N:5]([H:9])[H:11])([H:7])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([N:5]([H:9])[H:11])([H:6])[H:7])(=[C:3]([H:12])[H:13])[N:4]([H:8])[H:10],51.75180750001353
MR_300245_0,[N:1]([C:3]([C:2]([O:5][H:8])=[O:6])=[O:7])([N:4]([H:10])[H:11])[H:9]>>[N:1](=[C:3](/[C:2]([O:5][H:8])=[O:6])[O:7][H:11])\[N:4]([H:9])[H:10],59.04649499998371
MR_463122_1,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4](=[N:7]\[C:3]([H:14])([H:15])[H:16])[H:10])([O:5][H:8])[O:6][H:9]>>[C@:1]1([C:2]([H:11])([H:12])[H:13])([O:5][H:8])[C@:4]([O:6][H:9])([H:10])[N:7]1[C:3]([H:14])([H:15])[H:16],68.09379000000547
MR_483972_1,[C:1]([C:3](=[C:2]([O:7][H:10])[O:8][H:9])/[C:5](=[C:6](\[N:4]([H:11])[H:12])[H:14])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:5]([H:13])[C@@:6]([N:4]([H:11])[H:12])([H:14])[C:2]1([O:7][H:10])[O:8][H:9])([H:15])([H:16])[H:17],51.94256750001344
